US05808038
1,4-Bis(2-pyridyltriazeno)butane
A solution of 3.95 g (25 mmoles) of 2-bromopyridine in 20 ml of dry pentane was added dropwise to 10 ml. of 2.5M butylithium in hexane at -78° C. To the resulting yellow slurry was added dropwise with stirring 1.75 g (12.5 mmoles) of 1,4-diazidobutane in 10 ml. of pentane. Stirring was continued for 2 hr. at -78° and then the reaction mixture was allowed to warm to room temperature. The reaction mixture was treated with 60 ml. of ammonium buffer which caused a precipitate to appear after the reaction was cooled to -78° C. The solid was filtered off. It was poorly soluble in common solvents such as halomethanes, acetone, methanol and water. It was sparingly soluble in dimethylsulfoxide. The yield was 2.3 g., m.p. 133-136. Spectroscopic data were consistent with the structure.

reactant | 2-bromopyridine | 25 mmoles, 3.95 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | 1,4-diazidobutane | 12.5 mmoles, 1.75 g | N(=[N+]=[N-])CCCCN=[N+]=[N-] | C4H8N6
reactant | ammonium | [NH4+]
solvent | pentane | 20 ml | CCCCC | C5H12
solvent | hexane | CCCCCC | C6H14
product | 1,4-Bis(2-pyridyltriazeno)butane | N1=C(C=CC=C1)NN=NCCCCN=NNC1=NC=CC=C1 | C14H18N8
